data/polar.json
{"reaction_name": "Carboxylic-acid homologation sequence", "rsmi": "[C:2]([Cl:3])(=[O:4])[CH3:6].[N+:5](=[CH2:7])=[N-:10].[O:1]([H:8])[H:9]>>[Cl:3][H:9].[N:5]#[N:10].[O:1]([C:2](=[O:4])[CH2:7][CH3:6])[H:8]", "epd": [["LP-/Sigma+", [1], [1, 2]], ["Pi-/LP+", [2, 4], [4]], ["LP-/Pi+", [4], [2, 4]], ["Sigma-/LP+", [2, 3], [3]], ["LP-/Sigma+", [3], [3, 9]], ["Sigma-/LP+", [1, 9], [1]], ["Pi-/Sigma+", [5, 7], [6, 7]], ["Sigma-/LP+", [2, 6], [2]], ["LP-/Sigma+", [2], [2, 7]], ["Sigma-/LP+", [5, 7], [5]], ["LP-/Pi+", [10], [5, 10]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[N+:1](=[O:3])([c:15]1[cH:13][c:16]([N+:30](=[O:12])[O-:33])[cH:31][c:14]2[c:39]1[n:27][o:36][n+:41]2[O-:4])[O-:25].[N:2]1([c:26]2[cH:34][cH:5][n:40][cH:6][cH:35]2)[CH2:21][CH2:38][CH2:7][CH:22]1[C:32]([c:28]1[cH:8][cH:17][cH:23][cH:18][cH:9]1)([c:29]1[cH:10][cH:19][cH:24][cH:20][cH:11]1)[F:37]>>[N+:1](=[O:3])([C:15]1=[CH:13][C:16](=[N+:30]([O-:12])[O-:33])[CH:31]([n:40]2[cH:5][cH:34][c:26](=[N+:2]3[CH2:21][CH2:38][CH2:7][CH:22]3[C:32]([c:28]3[cH:8][cH:17][cH:23][cH:18][cH:9]3)([c:29]3[cH:10][cH:19][cH:24][cH:20][cH:11]3)[F:37])[cH:35][cH:6]2)[c:14]2[c:39]1[n:27][o:36][n+:41]2[O-:4])[O-:25]", "epd": [["LP-/Pi+", [2], [2, 26]], ["Pi-/Pi+", [26, 35], [6, 35]], ["Pi-/Sigma+", [6, 40], [31, 40]], ["Pi-/Pi+", [16, 31], [16, 30]], ["Pi-/LP+", [12, 30], [12]]]}
{"reaction_name": "Weinreb ketone synthesis", "rsmi": "[Br-:7].[CH3-:8].[Mg+:2].[O:1]([CH3:3])[N:10]([C:4](=[O:6])[CH3:9])[CH3:5]>>[Br-:7].[C:4](=[O:6])([CH3:8])[CH3:9].[Mg+:2].[O:1]([CH3:3])[N-:10][CH3:5]", "epd": [["LP-/Sigma+", [8], [4, 8]], ["Pi-/LP+", [4, 6], [6]], ["LP-/Pi+", [6], [4, 6]], ["Sigma-/LP+", [4, 10], [10]]]}
{"reaction_name": "Vinylogous Michael addition", "rsmi": "[CH3:1][O:2][c:4]1[cH:18][cH:9][c:8]([CH:15]=[C:14]2[CH:16]=[C:5]([Br:12])[C:7](=[O:11])[C:6]([Br:13])=[CH:17]2)[cH:10][cH:19]1.[Cl-:3]>>[CH3:1][O:2][c:4]1[cH:18][cH:9][c:8]([CH:15]([Cl:3])[c:14]2[cH:16][c:5]([Br:12])[c:7]([O-:11])[c:6]([Br:13])[cH:17]2)[cH:10][cH:19]1", "epd": [["LP-/Sigma+", [3], [3, 15]], ["Pi-/Pi+", [15, 14], [14, 16]], ["Pi-/Pi+", [16, 5], [5, 7]], ["Pi-/LP+", [7, 11], [11]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[N+:1](=[O:2])([c:12]1[cH:8][c:14]([N+:19](=[O:7])[O-:21])[cH:20][c:11]2[c:24]1[n:18][o:22][n+:25]2[O-:3])[O-:17].[c:4]1([CH:15]=[N+:13]=[N-:23])[cH:9][cH:5][cH:16][cH:6][cH:10]1>>[N+:1](=[O:2])([C:12]1=[CH:8][C:14](=[N+:19]([O-:7])[O-:21])[CH:20]([CH:15]([c:4]2[cH:9][cH:5][cH:16][cH:6][cH:10]2)[N+:13]#[N:23])[c:11]2[c:24]1[n:18][o:22][n+:25]2[O-:3])[O-:17]", "epd": [["LP-/Pi+", [23], [13, 23]], ["Pi-/Sigma+", [15, 13], [15, 20]], ["Pi-/Pi+", [20, 14], [14, 19]], ["Pi-/LP+", [19, 7], [7]]]}
{"reaction_name": "Addition–elimination on vinyl sulfones", "rsmi": "[CH3:3][S-:7].[O:1]=[S:8](=[O:2])([CH:4]=[CH2:6])[CH3:5]>>[CH3:3][S:7][CH:4]=[CH2:6].[O:1]=[S-:8](=[O:2])[CH3:5]", "epd": [["LP-/Sigma+", [7], [4, 7]], ["Sigma-/LP+", [4, 8], [8]], ["Pi-/LP+", [1, 8], [1]], ["LP-/Pi+", [1], [1, 8]]]}
{"reaction_name": "Dearomatizing addition to a benzopyrylium / flavylium ion", "rsmi": "[N:1]1=[C:2]([CH3:5])[O:18][CH2:11][CH2:15]1.[cH:3]1[cH:10][cH:4][c:6]2[c:12]([o+:7][c:9](-[c:20]3[cH:16][cH:13][cH:21][cH:14][cH:17]3)[cH:8][cH:19]2)[cH:22]1>>[N:1]1([CH:19]2[c:6]3[cH:4][cH:10][cH:3][cH:22][c:12]3[O:7][C:9]([c:20]3[cH:16][cH:13][cH:21][cH:14][cH:17]3)=[CH:8]2)[C:2]([CH3:5])=[O+:18][CH2:11][CH2:15]1", "epd": [["LP-/Pi+", [18], [2, 18]], ["Pi-/Sigma+", [1, 2], [1, 19]], ["Pi-/Pi+", [19, 8], [8, 9]], ["Pi-/LP+", [9, 7], [7]]]}
{"reaction_name": "Dearomatizing addition to a benzopyrylium / flavylium ion", "rsmi": "[O-:3][c:4]1[cH:21][cH:16][c:18]([CH3:11])[cH:17][cH:22]1.[cH:1]1[cH:9][cH:2][c:5]2[c:10]([o+:6][c:8](-[c:20]3[cH:14][cH:12][cH:23][cH:13][cH:15]3)[cH:7][cH:19]2)[cH:24]1>>[cH:1]1[cH:9][cH:2][c:5]2[c:10]([cH:24]1)[O:6][C:8]([c:20]1[cH:14][cH:12][cH:23][cH:13][cH:15]1)=[CH:7][CH:19]2[O:3][c:4]1[cH:21][cH:16][c:18]([CH3:11])[cH:17][cH:22]1", "epd": [["LP-/Sigma+", [3], [3, 19]], ["Pi-/Pi+", [19, 7], [7, 8]], ["Pi-/LP+", [8, 6], [6]]]}
{"reaction_name": "Nitroalkane deprotonation", "rsmi": "[N+:1](=[O:2])([CH2:4][H:6])[O-:5].[OH-:3]>>[N+:1](=[O:2])([CH2-:4])[O-:5].[OH:3][H:6]", "epd": [["LP-/Sigma+", [3], [3, 6]], ["Sigma-/LP+", [4, 6], [4]]]}
{"reaction_name": "β-Haloenone substitution", "rsmi": "[CH:2]([Cl:3])=[CH:7][C:6](=[O:5])[CH3:8].[O-:1][CH3:4]>>[Cl-:3].[O:1]([CH:2]=[CH:7][C:6](=[O:5])[CH3:8])[CH3:4]", "epd": [["LP-/Sigma+", [1], [1, 2]], ["Sigma-/LP+", [2, 3], [3]]]}
